US08227500B2
4-{3-Cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-hydroxy benzoic acid
To a solution of 4-{3-cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-hydroxy benzoic acid ethyl ester (0.072 g) in a mixed solvent of ethanol (9 mL) and tetrahydrofuran (3 mL) was added 1 mol/mL aqueous lithium hydroxide solution (2.7 mL), and this mixture was stirred at room temperature for 48 hours. This reaction mixture was poured into 1 mol/L hydrochloric acid (2.7 mL), and to this mixture was added water (30 mL). The precipitated solid was collected by filtration. This obtained solid was washed with water, dried under reduced pressure at 50° C. to give the title compound (0.051 g).

reactant | 4-{3-cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-hydroxy benzoic acid ethyl ester | 0.072 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C(=C1)C1=C(C=CC=C1)OCCOC)C#N)O)=O | C23H22N2O5
reactant | ethanol | 9 mL | C(C)O | C2H6O
reactant | lithium hydroxide | 1 mol/mL, 2.7 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L, 2.7 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-{3-Cyano-4-[2-(2-methoxyethoxy)phenyl]pyrrole-1-yl}-2-hydroxy benzoic acid | 0.051 g | C(#N)C1=CN(C=C1C1=C(C=CC=C1)OCCOC)C1=CC(=C(C(=O)O)C=C1)O | C21H18N2O5
